US05250522
(S)-3-(Biphenyl-4-yl)-2-(dimethylphosphonomethyl-amino)-propionic acid (278 mg, 0.76 mmol) is dissolved in a 30% solution of hydrobromic acid in acetic acid (10 mL) under nitrogen. After 2 hours, ether (50 mL) is added and the product precipitates. The mixture is kept at 0° for 18 hours and then filtered. The solid is dissolved in 0.1N sodium hydroxide (25 mL) and the insoluble material is filtered. The filtrate is acidified with 2N hydrochloric acid (5 mL). The gelatinous solid is filtered, washed with water and dried under high vacuum at 75° to give the (S)-3-(biphenyl-4-yl)-2-(phosphonomethyl-amino)-propionic acid as a white powder; m.p.: 241° (dec.); [α]D =+33.16 (c 0.95, 0.1N NaOH).

reactant | (S)-3-(Biphenyl-4-yl)-2-(dimethylphosphonomethyl-amino)-propionic acid | 0.76 mmol, 278 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)O)NCP(=O)(OC)OC)C1=CC=CC=C1 | C18H22NO5P
reactant | ether | 50 mL | CCOCC | C4H10O
solvent | hydrobromic acid | Br | BrH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | (S)-3-(biphenyl-4-yl)-2-(phosphonomethyl-amino)-propionic acid | C1(=CC=C(C=C1)C[C@@H](C(=O)O)NCP(=O)(O)O)C1=CC=CC=C1 | C16H18NO5P
